US08012982B2
Step 1: 4-bromobenzoic acid
1.1 eq of aqueous NaOH (1 M solution) was added to a solution of methyl 4-bromobenzoate in THF (0.5 M) and the reaction allowed to stir at RT overnight. THF was removed in vacuo and aqueous HCl (6M) was added dropwise to the basic solution at 0° C. to adjust the pH to pH 2. The resultant aqueous mixture was extracted with EtOAc (3×) and then the combined organics were washed with brine, dried over Na2SO4, filtered and the solvent evaporated in vacuo. The title compound was obtained in quantitative yield; MS (ES+) m/z 201 (M+H)+, m/z 203 (M+H)+

reactant | NaOH | 1 M, 1.1 eq | [OH-].[Na+]
reactant | methyl 4-bromobenzoate | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | 4-bromobenzoic acid | quantitative yield | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
